US07189730B2
To a solution of 2-(2-phenylethoxy)-8-(furan-2-yl)-9-ethyl-9H-purin-6-ylamine (150 mg, 0.43 mmol) in 45 mL of isopropanol and 2 drops of concentrated HCl was added 150 mg of Pd(OH)2, and the mixture was shaken with hydrogen at 170 psi and 65° C. for 7 hours. The catalyst was filtered off, washed with warm methanol, and the filtrate was concentrated to dryness. The residue was flash chromatographed on a silica gel column eluting with cyclohexane, -EtOAc-CH3OH (60:33:7) to give 2-(2-phenylethoxy)-8-(tetrahydrofuran-2-yl)-9-ethyl-9H-purin-6-ylamine (71 mg, 47%) as chromatographically pure solid: mp 121–123° C.; 1H NMR (Me2SO-d6) δ 1.33 (t, 3H, J=7.1 Hz, CH2CH3), 1.87–2.30 (m, 3H, H-3-Fur and H-4-Fur), 2.55–2.75 (m, 1H, H-3-Fur), 3.02 (t, 2H, J=6.9 Hz, CH2CH2Ph), 3.83 (m, 2H, H-5-Fur), 4.15 (q, 2H, J=7.1 Hz, CH2CH3), 4.41 (t, 2H, J=6.9 Hz, CH2CH2Ph), 5.14 (t, 1H, J=6.6 Hz, H-2-Fur), 7.17–7.40 (m, 7H, H-Ph and NH2). Anal. (C19H23N5O2) C, H, N.

reactant | 2-(2-phenylethoxy)-8-(furan-2-yl)-9-ethyl-9H-purin-6-ylamine | 0.43 mmol, 150 mg | C1(=CC=CC=C1)CCOC1=NC(=C2N=C(N(C2=N1)CC)C=1OC=CC1)N | C19H19N5O2
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 45 mL | C(C)(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
catalyst | Pd(OH)2 | 150 mg | [OH-].[OH-].[Pd+2]
product | 2-(2-phenylethoxy)-8-(tetrahydrofuran-2-yl)-9-ethyl-9H-purin-6-ylamine | 71 mg, 47% | C1(=CC=CC=C1)CCOC1=NC(=C2N=C(N(C2=N1)CC)C1OCCC1)N | C19H23N5O2
